US07642264B2
To a solution of commercially available 4-iodobenzotrifluoride (11.76 mL, 80 mmol) in THF (70 mL) at −40° C. was added isopropylmagnesium chloride (2 M in THF, 41.2 mL, 88 mmol) within 5 min keeping the internal temperature below −20° C., stirring was continued at −20 to 0° C. for 40 min. ZnCl2 (1M in THF, 88 mL, 88 mmol) was added, the cooling bath was removed and replaced with a water bath, the mixture was allowed to reach 23° C. and stirred at 23° C. for 45 min resulting in a light yellow suspension. Pd(PPh3)4 (924 mg, 1 mol %) and trans-crotonyl chloride (90%, 9.38 mL, 88 mmol) were added dropwise at 23° C. (exothermic reaction (!), keeping the internal temperature at ˜35° C. by water bath cooling) and stirring was continued at 23° C. for 1 h. Poured into icecold 0.5 N HCl, extracted with EtOAc, washed with sat. NaHCO3-sol. and brine, dried over MgSO4. Removal of the solvent in vacuum left a red oil which was purified with chromatography with heptane to heptane:TBME (9:1) to give the (E)-1-(4-trifluoromethyl-phenyl)-but-2-en-1-one as a yellow liquid (18.37 g, quant., 93% purity).

reactant | 4-iodobenzotrifluoride | 80 mmol, 11.76 mL | IC1=CC=C(C=C1)C(F)(F)F | C7H4F3I
reactant | isopropylmagnesium chloride | 88 mmol, 2 M, 41.2 mL | C(C)(C)[Mg]Cl
reactant | trans-crotonyl chloride | 88 mmol, 9.38 mL | C(\C=C\C)(=O)Cl | C4H5ClO
reactant | HCl | 0.5 N | Cl | ClH
solvent | THF | 70 mL | C1CCOC1 | C4H8O
catalyst | ZnCl2 | 88 mmol, 1M, 88 mL | [Cl-].[Cl-].[Zn+2]
catalyst | Pd(PPh3)4 | 924 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (E)-1-(4-trifluoromethyl-phenyl)-but-2-en-1-one | FC(C1=CC=C(C=C1)C(\C=C\C)=O)(F)F | C11H9F3O
